US03987160
A mixture of 4-amino-2-cyclohexylpyrimid-6-one (18 g.) and water (150 ml.) was stirred and heated to 70° C, and treated slowly with sodium nitrite (8 g.), followed by an excess of glacial acetic acid. The mixture was stirred for a further 1 hour and the blue solid (25 g.) filtered off and used directly for the next stage. A sample recrystallised from glacial acetic acid gave pure 4-amino-2-cyclohexyl-5-nitrosopyrimid-6-one, m.p. 233°-234° C. (with decomposition).

reactant | 4-amino-2-cyclohexylpyrimid-6-one | 18 g | NC=1N=C(NC(C1)=O)C1CCCCC1 | C10H15N3O
reactant | water | 150 ml | O | H2O
reactant | sodium nitrite | 8 g | N(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-amino-2-cyclohexyl-5-nitrosopyrimid-6-one | NC=1N=C(NC(C1N=O)=O)C1CCCCC1 | C10H14N4O2
